US05281571
At 25° C., 1.5 g (4.5 mmole) 4-chloro-3-(2,5-difluoro-4-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole, 0.69 g (5.0 mmole) K2CO3, 0.55 mL (5.0 mmole) ethyl mercaptoacetate, and 0.05 g (0.5 mmole) CuF2 were slurried in 15 mL 1-methyl-2-pyrrolidinone. The reaction mixture was stirred 28° C. for 24 hours. The mixture was cooled, diluted with 100 mL cold water, and extracted four times with ethyl acetate. The ethyl acetate extracts were washed with brine, dried over anhydrous MgSO4, and stripped in vacuo. The residue was purified chromato-graphically using 10% diethyl ether and 15% methylene chloride in hexane as the eluent to give 0.86 g (43%) of (5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluoro-2-nitrophenyl)thio-acetic acid, ethyl ester as a yellow solid, mp 79° C.

reactant | 4-chloro-3-(2,5-difluoro-4-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole | 4.5 mmole, 1.5 g | ClC=1C(=NN(C1C(F)(F)F)C)C1=C(C=C(C(=C1)F)[N+](=O)[O-])F | C11H5ClF5N3O2
reactant | K2CO3 | 5.0 mmole, 0.69 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl mercaptoacetate | 5.0 mmole, 0.55 mL | SCC(=O)OCC | C4H8O2S
reactant | 1-methyl-2-pyrrolidinone | 15 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 100 mL | O | H2O
product | (5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluoro-2-nitrophenyl)thio-acetic acid, ethyl ester | 0.86 g, 43% | ClC=1C(=NN(C1C(F)(F)F)C)C=1C(=CC(=C(C1)CC(=S)OCC)[N+](=O)[O-])F | C15H12ClF4N3O3S
